US09447114B2
To a solution of 3-(3-hydroxypropyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (9 g, 35.4 mmol) and PPTS (900 mg, 3.54 mmol) in DCM (90 mL) at 0° C. was added DHP (8.96 g, 0.106 mol) dropwise. The reaction was stirred at RT for 18 h, poured into water (30 mL) and extracted with DCM (2×20 mL). The combined organic layers were washed with brine (20 mL), dried over Na2SO4 and concentrated to a residue which was purified by chromatography and eluted with PE/EA (4:1) to give 1,5-dimethyl-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (11.2 g, 93.4% yield) as a yellow oil. LCMS: [MH+-THP] 255 and TR=1.473 min.

reactant | 3-(3-hydroxypropyl)-1,5-dimethylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 35.4 mmol, 9 g | OCCCN1C(N(C2=C(C1=O)C(=CS2)C)C)=O | C11H14N2O3S
reactant | PPTS | 3.54 mmol, 900 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | DHP | 0.106 mol, 8.96 g | C1CC=COC1 | C5H8O
reactant | water | 30 mL | O | H2O
solvent | DCM | 90 mL | C(Cl)Cl | CH2Cl2
product | 1,5-dimethyl-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 11.2 g, 93.4% yield | CN1C(N(C(C2=C1SC=C2C)=O)CCCOC2OCCCC2)=O | C16H22N2O4S
